US04675355
Initially, 107 g (1.0 mol) of N-methylaniline was added dropwise to a methyl alcohol solution containing 40% HCl with stirring at a temperature between 5° and 10° C. for one and a half hours. Thereafter, 80 g (1.12 mol) of sodium nitrite, of a purity of 97%, was added to the solution obtained at 5° C. After stirring at a temperature between 15° and 25° C. for 15 hours, the solution was poured in 2 l of ice water and the water solution was neutralized to pH 8 with aqueous ammonia after stirring for 15 minutes. Thereafter, 500 ml of heptane was added to the solution. After stirring at a temperature between 10° and 20° C. for 2 hours, the crystals obtained were filtered, washed sufficiently on the filter paper and thereafter dried with hot-air at 50° C. for 48 hours. 69.5 g of N-methyl-p-nitrosoaniline of a melting point of 115°~117° C. was obtained. The yield was 51.1%.

reactant | N-methylaniline | 1.0 mol, 107 g | CNC1=CC=CC=C1 | C7H9N
reactant | HCl | Cl | ClH
reactant | sodium nitrite | 1.12 mol, 80 g | N(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | heptane | 500 ml | CCCCCCC | C7H16
solvent | water | O | H2O
solvent | methyl alcohol | CO | CH4O
product | N-methyl-p-nitrosoaniline | 69.5 g, yield was 51.1% | CNC1=CC=C(C=C1)N=O | C7H8N2O
